*aqfp_mixer1
*main cirquit

***AQFP
*Subcircuit 
.subckt AQFP  x11 x21 x12 x22 4 5 3

B01 0 1 jmitll area=50
R01 0 1 0.9
L01 1 3 5.27p
L02 3 2 6.58p
B02 2 0 jmitll area=50
R02 2 0 0.9
L0q 3 0 19.77p

L03 4 5 19.77p
L22 x22 mid2 2.64p
L21 mid2 x21 2.64p
L12 x12 mid1 2.64p
L11 mid1 x11 2.64p

K1 L01 L11 0.3
K2 L02 L12 0.3
K11 L01 L21 0.3
K22 L02 L22 0.3
K3 L0q L03 0.3

.ends AQFP

*Main design
X01 0 0 x01 x02 12 11 fix AQFP
X02 x01 x02 x1 x2 11 13 in AQFP 
Rs 12 0 0.9
I_r2 0 x2 sin(0 0.0008 5G 0)
I_bb 0 x1 pwl(0n 0u 5n 0u 10n 120u 15n 0u 20n 0u 25n 120u 30n 0u 35n 0u)
Ifix 0 fix 8u
Iin 0 in pwl(0n -8u 17n -8u 18n 8u 30n 8u 35n 8u)

.model jmitll jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=60, rN=1.37, icrit=1uA)

.tran 0.25n 37n 0 0.25n
.file AQFP_MIXER1.dat
.plot I(Iin)
.plot I(I_r2)
.plot I(L0q.X02) I(L0q.X01)
.plot I(I_bb)
.plot I(Ifix)
.plot V(13)
.end
